US03943154
EXAMPLE 30: 3-[4-(4-ACETAMIDOBENZENESULFONAMIDO)BENZENESULFONYL]ACRYLONITRILE
To a dispersion of 3.6 grams (0.017 mol) of 3-(4-aminobenzenesulfonyl)acrylonitrile and 4.7 g (0.02 mol) of 4-acetamidobenzenesulfonyl chloride in 50 ml of chloroform is added 2 ml of pyridine. There is an exothermic reaction and an upper yellow, oily layer is formed. After 48 hours at room temperature 50 ml of chloroform are added, followed by water. The water and chloroform layers are separated and discarded, and the oily layer is shaken with water, separated and then dissolved in 30 ml ethanol. After cooling, crystals are recovered having a melting point of 204°-205° C and consisting of 3-[4-(4-ACETAMIDOBENZENESULFONAMIDO)BENZENESULFONYL]acrylonitrile: ##SPC35##

reactant | 3-(4-aminobenzenesulfonyl)acrylonitrile | 0.017 mol, 3.6 grams | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
reactant | 4-acetamidobenzenesulfonyl chloride | 0.02 mol, 4.7 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[4-(4-ACETAMIDOBENZENESULFONAMIDO)BENZENESULFONYL]ACRYLONITRILE | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C17H15N3O5S2
